US07338958B2
lb) Production of (2R,3R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]4-methoxybutan-2-ol
311 mg (2.6 mmol) of (2R,3R)-3-amino-4-methoxy-butan-2-ol hydrochloride (production according to A. I. Meyers, D. Hoyer, Tet. Lett. 1985, 26, 4687) in 2 ml of acetonitrile is mixed with 0.28 ml of triethylamine and shaken. It is filtered, and the filter cakes are washed with 2 ml of acetonitrile. The filtrate is added in drops to a solution of 455 mg (2.0 mmol) of 5-bromo-2,4dichloro-pyrimidine in 26 ml of acetonitrile at −30° C. By removal of the cooling bath, it is slowly heated to room temperature while being stirred. After 16 hours, the solvent is drawn off in a rotary evaporator, and the remaining residue is purified by chromatography (hexane/ethyl acetate: 4:1-1:1). 509 mg (1.6 mmol, corresponding to 80% of theory) of the product is obtained.

reactant | (2R,3R)-3-amino-4-methoxy-butan-2-ol hydrochloride | 2.6 mmol, 311 mg | Cl.N[C@@H]([C@@H](C)O)COC
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-2,4dichloro-pyrimidine | 2.0 mmol, 455 mg | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 26 ml | C(C)#N | C2H3N
product | (2R,3R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]4-methoxybutan-2-ol | BrC=1C(=NC(=NC1)Cl)N[C@@H]([C@@H](C)O)COC | C9H13BrClN3O2
